US08114993B2
3,5-Dimethylphenyl Acetic Acid (Entry 7, Table II)
Outside the glovebox a 2-dram vial equipped with a magnetic stir bar was charged with Pd(OAc)2 (5 mol %), ArCO2H (0.5 mmol) and chloroarene (3-5 equiv). The vial was flushed with argon, capped and placed inside a glovebox. To this mixture was added butyldi-1-adamantylphosphine (10 ml %), Cs2CO3 (2.2 equiv), molecular sieves 3 Å (155 mg) and anhydrous DMF (2.5 mL). The sealed vial was taken out of the glovebox, stirred at room temperature for 2 h and placed in a preheated oil bath (145° C.) for 24 h. The reaction mixture was allowed to cool to room temperature and quenched with 15% aqueous HCl (4 mL). Resulting suspension was extracted with ethyl acetate (3×3 mL) and the organic layer filtered through a pad of Celite®. The filtrate was concentrated under vacuum to a volume of about 2 mL. The mixture was adsorbed on silica gel and subjected to flash chromatography (hexanes then dichloromethane-ethyl acetate 95:5). The DCM-EtOAc fraction was concentrated, the residue triturated with distilled water (3×2 mL) and dried under reduced pressure. The residue, after trituration with hexanes (2×2 mL) and/or purification by preparative HPLC and drying under reduced pressure (50° C.) yielded the product.

reactant | butyldi-1-adamantylphosphine | 10 ml | C(CCC)P(C12CC3CC(CC(C1)C3)C2)C23CC1CC(CC(C2)C1)C3 | C24H39P
reactant | Cs2CO3 | 2.2 equiv | C(=O)([O-])[O-].[Cs+].[Cs+]
catalyst | Pd(OAc)2 | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
product | 3,5-Dimethylphenyl Acetic Acid | CC=1C=C(C=C(C1)C)CC(=O)O | C10H12O2
